US08304444B2
A solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (195 mg, 1.0 mmol) in dichloromethane (2 ml) was added dropwise to a stirred solution of (234 mg, 1.0 mmol) 2-(2,4-dichloro-phenyl)-2-methoxy-1-methyl-ethylamine, which was prepared as described in example P2, and triethylamine (202 mg, 2.0 mmol) in dichloromethane (6 ml) at 0° C. The reaction mixture was stirred for 1 hr at ambient temperature then allowed to stand for 4 h. After removal of the solvent the residue was purified by flash chromatography over silica gel (eluant:hexane/ethyl acetate 1:1). 170 mg (43% of theory) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [2-(2,4-dichlorophenyl)-2-methoxy-1-methyl-ethyl]-amide was obtained in the form of a resin as a mixture of diastereomeres.

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 1.0 mmol, 195 mg | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 2-(2,4-dichloro-phenyl)-2-methoxy-1-methyl-ethylamine | 1.0 mmol, 234 mg | ClC1=C(C=CC(=C1)Cl)C(C(C)N)OC | C10H13Cl2NO
reactant | triethylamine | 2.0 mmol, 202 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [2-(2,4-dichlorophenyl)-2-methoxy-1-methyl-ethyl]-amide | 170 mg, 43% | ClC1=C(C=CC(=C1)Cl)C(C(C)NC(=O)C=1C(=NN(C1)C)C(F)F)OC | C16H17Cl2F2N3O2
